US08048909B2
Methyl 1H-pyrrole-3-carboxylate
A solution (250 mL) of p-toluenesulfonylmethyl isocyanide (15.0 g) and methyl acrylate (6.92 mL) in tetrahydrofuran was added dropwise to a suspension (100 mL) of potassium tert-butoxide in tetrahydrofuran over 30 min. The reaction mixture was stirred at room temperature for 1 hr, and filtered through a glass filter filled with silica gel (diameter 8 cm, height 4 cm), and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→2:1) to give the title compound as a pale-yellow solid (yield 4.69 g, 49%).

reactant | p-toluenesulfonylmethyl isocyanide | 250 mL, 15.0 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | methyl acrylate | 6.92 mL | C(C=C)(=O)OC | C4H6O2
reactant | potassium tert-butoxide | 100 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl 1H-pyrrole-3-carboxylate | yield 4.69 g, 49% | N1C=C(C=C1)C(=O)OC | C6H7NO2
